US08030500B2
1-(2-Bromopyridin-4-yl)-4-fluoro-1-(4-methoxy-3,5-dimethylphenyl)-1H-isoindol-3-amine
The title compound was synthesized as described in Example 24i starting from 5-bromo-2-methoxy-1,3-dimethylbenzene (190 mg, 0.88 mmol) and (E)-N-((2-bromopyridin-4-yl)(2-cyano-3-fluorophenyl)methylene)-2-methylpropane-2-sulfinamide (300 mg, 0.73 mmol) to give the title compound which was used without further purification (400 mg, quant.).

reactant | 5-bromo-2-methoxy-1,3-dimethylbenzene | 0.88 mmol, 190 mg | BrC=1C=C(C(=C(C1)C)OC)C | C9H11BrO
reactant | (E)-N-((2-bromopyridin-4-yl)(2-cyano-3-fluorophenyl)methylene)-2-methylpropane-2-sulfinamide | 0.73 mmol, 300 mg | BrC1=NC=CC(=C1)/C(=N\S(=O)C(C)(C)C)/C1=C(C(=CC=C1)F)C#N | C17H15BrFN3OS
product | 1-(2-Bromopyridin-4-yl)-4-fluoro-1-(4-methoxy-3,5-dimethylphenyl)-1H-isoindol-3-amine | BrC1=NC=CC(=C1)C1(N=C(C2=C(C=CC=C12)F)N)C1=CC(=C(C(=C1)C)OC)C | C22H19BrFN3O
